US08729273B2
Preparation 26: Synthesis of 1-(1H-indol-5-yl)-imidazole-4-carboxylic acid ethyl ester
A mixture of ethylcyanoacetate (1.0 g, 7.75 mmol) and t-butoxy bis(dimethylamino)methane (2.7 g, 15.5 mmol) was stirred for 18 h at room temperature. After distillation under reduced pressure, 5-aminoindole (1.3 g, 7.75 mmol) was added. The mixture was dissolved in n-butanol, and refluxed for 15 h. The reaction solution was cooled, ethyl acetate was added thereto, and washed with aqueous sodium bicarbonate solution. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting solid was filtered, washed with ethyl acetate and dried to give the title compound (0.33 g, 17% Yield).

reactant | ethylcyanoacetate | 7.75 mmol, 1.0 g | C(C)OC(CC#N)=O | C5H7NO2
reactant | t-butoxy bis(dimethylamino)methane | 15.5 mmol, 2.7 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | 5-aminoindole | 7.75 mmol, 1.3 g | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-butanol | C(CCC)O | C4H10O
product | 1-(1H-indol-5-yl)-imidazole-4-carboxylic acid ethyl ester | 0.33 g, 17% Yield | C(C)OC(=O)C=1N=CN(C1)C=1C=C2C=CNC2=CC1 | C14H13N3O2
